US07129244B2
Step 2: Synthesis of 7-chloro-3-(2,5-dimethoxy-benzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine
A solution of 6-chloro-N4-(2,5-dimethoxy-benzyl)-pyrimidine-2,4,5-triamine was treated with a cold aqueous solution of NaNO2, following the general procedure 2. HPLC RT was 6.130 min. 1HNMR (CDCl3): δ 6.84–6.83 (m, 2H), 6.64–6.63 (d, 1H), 5.67 (s, 2H), 5.54 (s, 2H), 3.83 (s, 3H), 3.73 (s, 3H).

reactant | 6-chloro-N4-(2,5-dimethoxy-benzyl)-pyrimidine-2,4,5-triamine | ClC1=C(C(=NC(=N1)N)NCC1=C(C=CC(=C1)OC)OC)N | C13H16ClN5O2
reactant | NaNO2 | N(=O)[O-].[Na+]
product | 7-chloro-3-(2,5-dimethoxy-benzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine | ClC=1C2=C(N=C(N1)N)N(N=N2)CC2=C(C=CC(=C2)OC)OC | C13H13ClN6O2
